US06262045B1
10.6. 8-Fluoro-5-(methoxymethyl)-4-oxo-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indole-1-acetonitrile
A two-phase mixture of 2.8 g (6.7 mmol) of 1-(bromomethyl)-8-fluoro-5-(methoxymethyl)-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indol-4-one, of 1.3 g (26 mmol) of sodium cyanide and of 0.23 g (0.7 mmol) of tetrabutylammonium bromide in 100 ml of dichloromethane and 100 ml of water is stirred vigorously for 12 h. The organic phase is separated, washed several times with water, dried over magnesium sulphate and concentrated under reduced pressure. Diethyl ether is added and the precipitate is collected by filtration and dried under reduced pressure. 2.1 g (5.8 mmol) of solid are isolated, which solid is used as is in the following stage.

reactant | 1-(bromomethyl)-8-fluoro-5-(methoxymethyl)-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indol-4-one | 6.7 mmol, 2.8 g | BrCC1=NN(C(C=2N(C=3C=CC(=CC3C21)F)COC)=O)C2=CC=CC=C2 | C19H15BrFN3O2
reactant | sodium cyanide | 26 mmol, 1.3 g | [C-]#N.[Na+]
catalyst | tetrabutylammonium bromide | 0.7 mmol, 0.23 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | water | 100 ml | O | H2O
product | 8-Fluoro-5-(methoxymethyl)-4-oxo-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indole-1-acetonitrile | 5.8 mmol, 2.1 g | FC1=CC=2C3=C(N(C2C=C1)COC)C(N(N=C3CC#N)C3=CC=CC=C3)=O | C20H15FN4O2
